US06593322B1
A. 1-{{4-[(1E)-2-(2-Methyl(1,2,3,4-tetraazol-5-yl))vinyl]phenyl}methyl)2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline
To a solution containing 1-{[4-((1E)-2-(2H-1,2,3,4,-tetrazol-5-yl)vinyl)phenyl]methyl}-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4,-tetrahydroisoquinoline (430 mg, 0.831 mmol) in dimethyl formamide (12 mL) was added cesium carbonate (812 mg, 2.493 mmol) and methyl iodide (0.06 mL, 1.0 mmol). The mixture was allowed to stir at ambient temperature for 18 hours. The solvent was removed and the resulting oil was extracted with ethyl acetate and distilled water. The organic layer was dried over sodium sulfate, filtered and concentrated to afford a brown oil. The brown oil was purified by column chromatography (SiO2, 30% ethyl acetate/hexanes), to afford the title compound (100 mg, 23% yield): ES-MS (m/z) 532 [M+H]+.

reactant | 1-{[4-((1E)-2-(2H-1,2,3,4,-tetrazol-5-yl)vinyl)phenyl]methyl}-2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4,-tetrahydroisoquinoline | 0.831 mmol, 430 mg | N=1NN=NC1/C=C/C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C32H28FN5O
reactant | cesium carbonate | 2.493 mmol, 812 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 1.0 mmol, 0.06 mL | CI | CH3I
solvent | dimethyl formamide | 12 mL | CN(C=O)C | C3H7NO
product | 1-{{4-[(1E)-2-(2-Methyl(1,2,3,4-tetraazol-5-yl))vinyl]phenyl}methyl)2-(4-fluorophenyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 100 mg, 23% yield | CN1N=C(N=N1)/C=C/C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C33H30FN5O
